US04820715
4-Amino-5-chloro-N-[2-(diethylamino)ethyl]-2-[(3-methyl)-butan-2-on-1-yl]oxybenzamide
A mixture of 4-amino-5-chloro-N-[2-(diethylamino)ethyl]-2-hydroxybenzamide hydrochloride (5.82 g, 18 mmoles), anhydrous potassium carbonate (12.48 g; 90 mmoles) in DMF (30 ml) and 1-bromo-3-methyl-2-butanone [4.5 g, 27 mmoles; prepared according to M. Gaudry and A. Marquet, Org. Syn. 55, 24 (1976)] was stirred for 20 hours under nitrogen. The mixture was poured into water (150 ml) and the solid collected, dried and crystallized from toluene to give the title compound (4.86 g, 73%), mp. 109°-110°. The NMR spectrum (90 MHz) gave the following resonances: δ 8.56 (bt, 1H); 8.24 (s, 1H); 6.18 (s, 1H); 4.8 (s, 2H); 4.44 (s, 2H) 3.56 (m, 2H); 2.62 (m, 7H); 1.2 (d, 6H); 1.06 (t, 6H).

reactant | 4-amino-5-chloro-N-[2-(diethylamino)ethyl]-2-hydroxybenzamide hydrochloride | 18 mmoles, 5.82 g | Cl.NC1=CC(=C(C(=O)NCCN(CC)CC)C=C1Cl)O
reactant | potassium carbonate | 90 mmoles, 12.48 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 150 ml | O | H2O
reactant | 1-bromo-3-methyl-2-butanone | BrCC(C(C)C)=O | C5H9BrO
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | 4-Amino-5-chloro-N-[2-(diethylamino)ethyl]-2-[(3-methyl)-butan-2-on-1-yl]oxybenzamide | 4.86 g, 73% | NC1=CC(=C(C(=O)NCCN(CC)CC)C=C1Cl)OCC(C(C)C)=O | C18H28ClN3O3
